US09212190B2
To a solution of tert-butyl N-(4-[[(12S)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate (240 mg, 0.43 mmol, 1.00 equiv) in 4 mL of THF was added TBAF (223 mg, 0.85 mmol, 2.00 equiv) and the resulting solution was stirred overnight at 25° C. in an oil bath. The reaction was then quenched with water and extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:2) to provide tert-butyl N-(4-[[(12S)-12-(2-hydroxyethyl)-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate (172 mg, 90%) as yellow oil. MS: m/z 448 (M+H)+.

reactant | tert-butyl N-(4-[[(12S)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate | 0.43 mmol, 240 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OCC[C@H]1CCC=2SC=3N=CN=C(C3C2C1)OC1CCC(CC1)NC(OC(C)(C)C)=O | C29H47N3O4SSi
reactant | TBAF | 0.85 mmol, 223 mg, 2.00 equiv | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | tert-butyl N-(4-[[(12S)-12-(2-hydroxyethyl)-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate | 172 mg, 90% | OCC[C@H]1CCC=2SC=3N=CN=C(C3C2C1)OC1CCC(CC1)NC(OC(C)(C)C)=O | C23H33N3O4S
